US09359336B2
To the solution of 1-(3-((2-amino-5-(2-(3-((tert-butyldimethylsilyl)oxy)propyl)-2H-tetrazol-5-yl)pyridin-3-yl)ethynyl)phenyl)-3-(4-chloro-3-(trifluoromethyl)phenyl)urea (188 mg, 0.28 mmol, 1 eq) in anhydrous tetrahydrofuran (5 mL) under nitrogen atmosphere at 0° C. was added dropwise tetrabutylammonium fluoride (1.0 M in THF, 0.84 mL, 3 eq). The reaction was stirred at room temperature for 3 hours and then concentrated and loaded onto silica. The mixture was subject to a column chromatography (EtOAc-Hex 4:1 to MeOH-EtOAc 1:25) to yield 1-[3-({2-amino-5-[2-(3-hydroxypropyl)-2H-tetrazol-5-yl]pyridin-3-yl}ethynyl)phenyl]-3-[4-chloro-3-(trifluoromethyl)phenyl]urea as a white solid in the amount of 127 mg.

reactant | 1-(3-((2-amino-5-(2-(3-((tert-butyldimethylsilyl)oxy)propyl)-2H-tetrazol-5-yl)pyridin-3-yl)ethynyl)phenyl)-3-(4-chloro-3-(trifluoromethyl)phenyl)urea | 0.28 mmol, 188 mg, 1 eq | NC1=NC=C(C=C1C#CC=1C=C(C=CC1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)C=1N=NN(N1)CCCO[Si](C)(C)C(C)(C)C | C31H34ClF3N8O2Si
reactant | tetrabutylammonium fluoride | 1.0 M, 0.84 mL, 3 eq | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 1-[3-({2-amino-5-[2-(3-hydroxypropyl)-2H-tetrazol-5-yl]pyridin-3-yl}ethynyl)phenyl]-3-[4-chloro-3-(trifluoromethyl)phenyl]urea | NC1=NC=C(C=C1C#CC=1C=C(C=CC1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)C=1N=NN(N1)CCCO | C25H20ClF3N8O2
